US07351706B2
b) 6-Chloro-1-methylcarbamoylmethyl-1H-indole-3-carboxylic acid
2-[6-Chloro-3-(2,2,2-trifluoro-acetyl)-indol-1-yl]-N-methyl-acetamide was suspended in DCE and treated with (2.2 eq.) of sodium trimethylsilanolate. After shaking at room temperature for 20 min, the mixture was concentrated in vacuo and purified by prep. HPLC to give the title compound.

reactant | 2-[6-Chloro-3-(2,2,2-trifluoro-acetyl)-indol-1-yl]-N-methyl-acetamide | ClC1=CC=C2C(=CN(C2=C1)CC(=O)NC)C(C(F)(F)F)=O | C13H10ClF3N2O2
reactant | sodium trimethylsilanolate | 2.2 eq. | C[Si]([O-])(C)C.[Na+]
solvent | DCE | ClCCCl | C2H4Cl2
product | 6-Chloro-1-methylcarbamoylmethyl-1H-indole-3-carboxylic acid | ClC1=CC=C2C(=CN(C2=C1)CC(NC)=O)C(=O)O | C12H11ClN2O3
